US07834049B2
N-(3-Methyl-1H-indole-7-yl)-4-(methylsulfonyl)benzenesulfonamide
580 mg (15.3 mmol) of sodium borohydride and 150 mg of 10% palladium-carbon were added to a 2-propanol suspension (25 ml) containing 300 mg (1.58 mmol) of 3-formyl-7-nitro-1H-indole, followed by refluxing for 6 hours. After water was added to the reaction system, the catalyst was filtered off. The filtrate was extracted with ethyl acetate, and the extract was washed with brine and then dried over magnesium sulfate. The solvent was evaporated, and the residue was dissolved in 5 ml of pyridine. The mixture was reacted and treated with 170 mg (0.67 mmol) of 4-(methylsulfonyl)benzenesulfonyl chloride in the same manner as in Example 1a, to give 149 mg of the title compound.

reactant | sodium borohydride | 15.3 mmol, 580 mg | [BH4-].[Na+]
reactant | 2-propanol | 25 ml | CC(C)O | C3H8O
reactant | 3-formyl-7-nitro-1H-indole | 1.58 mmol, 300 mg | C(=O)C1=CNC2=C(C=CC=C12)[N+](=O)[O-] | C9H6N2O3
reactant | 4-(methylsulfonyl)benzenesulfonyl chloride | 0.67 mmol, 170 mg | CS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO4S2
catalyst | palladium-carbon | 150 mg | [C].[Pd]
solvent | water | O | H2O
product | N-(3-Methyl-1H-indole-7-yl)-4-(methylsulfonyl)benzenesulfonamide | 149 mg | CC1=CNC2=C(C=CC=C12)NS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)C | C16H16N2O4S2
